US07750154B2
N-cyclopropyl-4-methyl-3-[7-(4-methylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzamide (AZ12240198)
Triethylorthoformate (0.18 ml) was added to a stirred mixture of 2-amino-N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-4-(4-methylpiperazin-1-yl)benzamide (0.152 g) and glacial acetic acid (0.011 ml) in ethanol (30 ml). The mixture was heated to 90° C. and stirred for 16 hours. To the mixture was added 1N HCl (1 ml) and heated to 90° C. for 2 hours. The reaction mixture was made basic with sodium bicarbonate and evaporated, dissolved in ethyl acetate and washed with water. The organic phase was dried (magnesium sulphate) and evaporated to give the title compound (0.098 g); NMR Spectrum: (DMSOd6) 0.57 (m, 2H), 0.70 (m, 2H), 2.13 (s, 3H), 2.31 (s, 3H), 2.56 (m, 4H), 2.86 (m, 1H), 3.44 (m, 4H), 7.05 (d, 1H), 7.27 (m, 1H), 7.51 (d, 1H), 7.80 (d, 1H), 7.89 (m, 1H), 7.99 (d, 1H), 8.16 (s, 1H), 8.43 (d, 1H); Mass Spectrum: M+H+ 418.

reactant | Triethylorthoformate | 0.18 ml | C(C)OC(OCC)OCC | C7H16O3
reactant | 2-amino-N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-4-(4-methylpiperazin-1-yl)benzamide | 0.152 g | NC1=C(C(=O)NC2=C(C=CC(=C2)C(=O)NC2CC2)C)C=CC(=C1)N1CCN(CC1)C | C23H29N5O2
reactant | HCl | 1N, 1 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | acetic acid | 0.011 ml | C(C)(=O)O | C2H4O2
product | N-cyclopropyl-4-methyl-3-[7-(4-methylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzamide | 0.098 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC(=CC=C2C1=O)N1CCN(CC1)C)=O | C24H27N5O2
